US04241056
2.16 gm (0.01 mol) of 5amino-2-o-chlorophenyl-4-hydroxy-pyrimidine.
1.05 gm of phosgene and 1.35 ml of triethylamine are reacted, as described in Example 30 in absolute tetrahydrofurane. Triethylamine hydrochloride is filtered off and the solution is evaporated to approximately 50 ml. This solution is dropped with ice-cooling into the solution, prepared with triethylamine, of 4.2 gm of amoxycillin trihydrate in 60 ml of 80% aqueous tetrahydrofurane. Treatment is effected, as described in Example 23, by shaking the desired penicillin acid from water at pH 2 with ethyl acetate.

reactant | phosgene | 1.05 gm | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | water | O | H2O
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5amino-2-o-chlorophenyl-4-hydroxy-pyrimidine | NC=1C(=NC(=NC1)C1=C(C=CC=C1)Cl)O | C10H8ClN3O
